US06025517
A process according to claim 2 or 3 wherein, in step (b), said α-(2-aminoethyl)benzenemethanol is reacted with di-t-butyldicarbonate to form t-butyl N-(3-hydroxy-3-phenylpropyl)urethane.

reactant | α-(2-aminoethyl)benzenemethanol | NCCC(O)C1=CC=CC=C1 | C9H13NO
reactant | di-t-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | t-butyl N-(3-hydroxy-3-phenylpropyl)urethane | C(C)(C)(C)N(C(=O)OCC)CCC(C1=CC=CC=C1)O | C16H25NO3
